US08124649B2
A solution of (E)-3-chloro-N-(3-(5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)phenyl)propanamide (25 mg, 0.06 mmol) and pyrrolidine (0.025 mL) in NMP (0.75 mL) was heated in microwave (100° C., 5 min). The reaction mixture was purified by RHPLC to yield the desired (E)-N-(3-(5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)phenyl)-3-(pyrrolidin-1-yl)propanamide LCMS (ES): m/z 428 [M+1]+.

reactant | (E)-3-chloro-N-(3-(5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)phenyl)propanamide | 0.06 mmol, 25 mg | ClCCC(=O)NC1=CC(=CC=C1)C=1OC(=CC1)/C=C\1/C(NC2=CC=CC=C12)=O | C22H17ClN2O3
reactant | pyrrolidine | 0.025 mL | N1CCCC1 | C4H9N
solvent | NMP | 0.75 mL | CN1CCCC1=O | C5H9NO
product | (E)-N-(3-(5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)phenyl)-3-(pyrrolidin-1-yl)propanamide | O=C\1NC2=CC=CC=C2/C1=C\C1=CC=C(O1)C=1C=C(C=CC1)NC(CCN1CCCC1)=O | C26H25N3O3
